US04444774
2-Methyl-7-(3-pyridyl)[1,2,4]triazolo[1,5-a]pyrimidine
A reaction mixture of 0.98 g of 3-amino-5-methyl-1,2,4-triazole and 1.76 g of 3-dimethylamino-1-(3-pyridyl)-2-propene-1-one in 25 ml of glacial acetic acid was refluxed for six hours. The procedure was continued as for Example 1 to give 0.85 g of the product of the Example as colorless crystals, mp 244°-245° C.

reactant | 3-amino-5-methyl-1,2,4-triazole | 0.98 g | NC1=NNC(=N1)C | C3H6N4
reactant | 3-dimethylamino-1-(3-pyridyl)-2-propene-1-one | 1.76 g | CN(C=CC(=O)C=1C=NC=CC1)C | C10H12N2O
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 2-Methyl-7-(3-pyridyl)[1,2,4]triazolo[1,5-a]pyrimidine | 0.85 g | CC1=NN2C(N=CC=C2C=2C=NC=CC2)=N1 | C11H9N5
